US08492376B2
trans-4-(6-Chloro-pyridin-2-yl)-cyclohexanecarboxylic acid ethyl ester
To a solution of trans-4-(6-methoxy-pyridin-2-yl)-cyclohexanecarboxylic acid ethyl ester (0.55 g, 2.1 mmol) in N,N-dimethylformamide (21 ml) was added phosphorus oxychloride (0.96 ml, 10 mmol) at room temperature. Stirring for 2 h at 90° C. was followed by stirring for 24 h at 120° C. After cooling to room temperature the reaction mixture was poured onto crushed ice, stirred for 10 minutes and extracted with three 100-ml portions of ethyl acetate. The combined organic layers were washed with two 50-ml portions of water and one 50-ml portion of brine, dried over anhydrous sodium sulfate and concentrated to dryness. Purification by flash-chromatography gave the title compound (0.20 g, 36%) as light yellow oil. MS m/e: 268 ([M+H]+)

reactant | trans-4-(6-methoxy-pyridin-2-yl)-cyclohexanecarboxylic acid ethyl ester | 2.1 mmol, 0.55 g | C(C)OC(=O)[C@@H]1CC[C@H](CC1)C1=NC(=CC=C1)OC | C15H21NO3
reactant | phosphorus oxychloride | 10 mmol, 0.96 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | N,N-dimethylformamide | 21 ml | CN(C=O)C | C3H7NO
product | trans-4-(6-Chloro-pyridin-2-yl)-cyclohexanecarboxylic acid ethyl ester | 0.20 g, 36% | C(C)OC(=O)[C@@H]1CC[C@H](CC1)C1=NC(=CC=C1)Cl | C14H18ClNO2
